US07250518B2
2-(Benzo[1,3]dioxol-5-yloxy)-N-[4-(1-carbamoyl-1-methyl-ethyl)-benzyl]-nicotinamide of Formula (6.5.18):
1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.71 g), 1-hydoxybenzo-triazole hydrate (1.24 g), and were combined and suspended in anhydrous tetrahydrofuran (45 mL). N,N-Diisopropylethylamine (5.93 mL) was added to the suspension, which was stirred for 0.5 h. 2-[4-({[2-(Benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl]-2-methyl-propionic acid (0.340 g) was added to the suspension, and the reaction mixture stirred at ambient temperature overnight. Anhydrous ammonia gas was bubbled into the solution for 20 min, generating a white precipitate, and then the reaction mixture was concentrated in vacuo. Water was added to the reaction mixture, and it was extracted with dichloromethane (7×30 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography (ethyl acetate) and further purified by silica gel chromatography (ethyl acetate:hexanes 17:3) to yield the title compound (0.150 g).

reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.71 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydoxybenzo-triazole hydrate | 1.24 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-Diisopropylethylamine | 5.93 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-[4-({[2-(Benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl]-2-methyl-propionic acid | 0.340 g | O1COC2=C1C=CC(=C2)OC2=NC=CC=C2C(=O)NCC2=CC=C(C=C2)C(C(=O)O)(C)C | C24H22N2O6
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | 2-(Benzo[1,3]dioxol-5-yloxy)-N-[4-(1-carbamoyl-1-methyl-ethyl)-benzyl]-nicotinamide | 0.150 g | O1COC2=C1C=CC(=C2)OC2=C(C(=O)NCC1=CC=C(C=C1)C(C)(C)C(N)=O)C=CC=N2 | C24H23N3O5
